US06248765B1
0.4 g (1.10 mmol) of 3-(1-triphenylmethyl-4-imidazolyl)propionaldehyde is treated with 0.13 g (1.10 mmol) of 3-ethylaniline in anhydrous toluene, and then reduced as described for Example 154 to yield 1-triphenylmethyl-4-[3-(3-ethylphenylamino)propyl]-imidazole in the form of a colourless oil. The latter is deprotected with HCl in tetrahydrofuran, and the oil obtained is converted to oxalate as described for Example 154, to yield the product, m.p. 189-191° C. after recrystallization in a mixture of 2-propanol and diethyl ether.

reactant | 3-(1-triphenylmethyl-4-imidazolyl)propionaldehyde | 1.10 mmol, 0.4 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O
reactant | 3-ethylaniline | 1.10 mmol, 0.13 g | C(C)C=1C=C(N)C=CC1 | C8H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-triphenylmethyl-4-[3-(3-ethylphenylamino)propyl]-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCNC1=CC(=CC=C1)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33N3
